US09428509B2
N,N,3-Trimethyl-4-((5-(1-methyl-1H-pyrazol-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)benzamide
To a degassed mixture of 2-chloro-5-(1-methyl-1H-pyrazol-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), 4-amino-N,N,3-trimethylbenzamide (1 equiv) and cesium carbonate (3 equiv) in 1.4-dioxane (0.086 M) were added palladium acetate (0.3 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.6 equiv). The mixture was stirred at 110° C. for 2 h. The reaction was cooled to room temperature and filtered. The filtrate was concentrated and the residue obtained was purified by preparative thin layer chromatography (3.3% MeOH in DCM) to afford the title compound (76% yield). MS (ESI) m/z 606.1 [M+1]+.

reactant | 2-chloro-5-(1-methyl-1H-pyrazol-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C=2C=NN(C2)C)COCC[Si](C)(C)C)OC2CCOCC2 | C21H30ClN5O3Si
reactant | 4-amino-N,N,3-trimethylbenzamide | 1 equiv | NC1=C(C=C(C(=O)N(C)C)C=C1)C | C10H14N2O
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.6 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1.4-dioxane | 0.086 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.3 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N,N,3-Trimethyl-4-((5-(1-methyl-1H-pyrazol-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)benzamide | 76% yield | CN(C(C1=CC(=C(C=C1)NC=1N=C(C2=C(N1)N(C=C2C=2C=NN(C2)C)COCC[Si](C)(C)C)OC2CCOCC2)C)=O)C | C31H43N7O4Si
